US04732912
The process described in Example 1 was repeated using 10-[(1RS, 2RS)-5-methoxy-2-p-methoxyphenylindan-1-yl]decanoic acid and n-hexylamine as starting materials. There was thus obtained as an oil N-n-hexyl-10-[(1RS, 2RS)-5-hydroxy-2-p-hydroxyphenylindan-1-yl]decanamide, the structure of which was confirmed by proton magnetic resonance and mass spectroscopy.

reactant | 10-[(1RS, 2RS)-5-methoxy-2-p-methoxyphenylindan-1-yl]decanoic acid | COC=1C=C2CC(C(C2=CC1)CCCCCCCCCC(=O)O)C1=CC=C(C=C1)OC | C27H36O4
reactant | n-hexylamine | C(CCCCC)N | C6H15N
product | N-n-hexyl-10-[(1RS, 2RS)-5-hydroxy-2-p-hydroxyphenylindan-1-yl]decanamide | C(CCCCC)NC(CCCCCCCCCC1C(CC2=CC(=CC=C12)O)C1=CC=C(C=C1)O)=O | C31H45NO3
